US08168658B2
To a mixture of tert-butyl 4-[1-(aminomethyl)-2-methoxy-2-oxoethyl]benzoate hydrochloride (600 mg, 1.90 mmol) in CH2Cl2 were added pyridine (0.38 mL, 4.75 mmol) and acetyl chloride (0.20 mL, 2.85 mmol). After stirring for 2 h at room temperature, the reaction mixture was diluted with EtOAc, washed (sat. CuSO4, sat. NaHCO3, brine), dried (MgSO4), and concentrated. Flash chromatography on silica gel (50-100% EtOAc/hexanes) afforded tert-butyl 4-{1-[(acetylamino)methyl]-2-methoxy-2-oxoethyl}benzoate as a thick, colorless oil. 1H NMR (CDCl3) δ7.94 (d, J=8.2 Hz, 2H), 7.28 (d, J=8.2 Hz, 2H), 5.87 (t, J=5.5 Hz, 1H), 3.96 (dd, J=8.8, 5.9 Hz, 1H), 3.71-3.60 (m, 2H), 3.67 (s, 3H), 1.93 (s, 3H), 1.57 (s, 9H). MS (ESI) calcd [M+H]+ 322.1, found 322.1.

reactant | tert-butyl 4-[1-(aminomethyl)-2-methoxy-2-oxoethyl]benzoate hydrochloride | 1.90 mmol, 600 mg | Cl.NCC(C(=O)OC)C1=CC=C(C(=O)OC(C)(C)C)C=C1
reactant | pyridine | 4.75 mmol, 0.38 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 2.85 mmol, 0.20 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-{1-[(acetylamino)methyl]-2-methoxy-2-oxoethyl}benzoate | C(C)(=O)NCC(C(=O)OC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C17H23NO5
